### PR TITLE
feat(ModularForms/SlashActionAuxil): prove `Γ2_generate`

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR proves the theorem `Γ2_generate`, which establishes that the principal congruence subgroup `Γ(2)` is generated by the matrices `α`, `β`, and `-I`.

The proof uses a descent argument on the absolute value of the `(1,0)` entry. Several auxiliary lemmas were developed to handle the row/column reduction steps and the base case when the `(1,0)` entry is zero. The key insight is that multiplying by powers of `α` and `β` allows reducing any matrix in `Γ(2)` to one with a smaller `(1,0)` entry, eventually reaching zero.

Co-authored-by: Aristotle Harmonic [aristotle-harmonic@harmonic.fun](mailto:aristotle-harmonic@harmonic.fun).

Original output by @Aristotle-Harmonic: https://gist.github.com/pitmonticone/421d388490f338342dc90e89f2495bc9.

### CODE REVIEW

File: SpherePacking/ModularForms/SlashActionAuxil.lean [hunk 1]
```diff
@@ -81,15 +81,340 @@ section slashaction_generators
...
+      split_ifs <;> cases abs_cases a <;> exact abs_le.mpr ⟨by grind, by grind⟩
+  obtain ⟨m, hm⟩ := hm
+  use m
+  norm_num [abs_le] at *
+  cases abs_cases a <;> cases abs_cases (c + 2 * m * a) <;>
+    nlinarith [Int.ediv_mul_cancel (show 2 ∣ c from even_iff_two_dvd.mp hc),
+      Int.ediv_mul_cancel (show 2 ∣ |a| - 1 from even_iff_two_dvd.mp
+        (by cases abs_cases a <;> simp [*, parity_simps]))]
+
+lemma Γ2_descent (A : Γ 2) (h : A.1 1 0 ≠ 0) :
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/SlashActionAuxil.lean:178]: this proof (as well as ones above)  are really long, is it possible to break these up more? I'm just thinking of when it comes to PRing this to mathlib, it would be quite hard to do in this state.

Comment (pitmonticone) [reply SpherePacking/ModularForms/SlashActionAuxil.lean:178]: I'll take a look at it later

Comment (pitmonticone) [reply SpherePacking/ModularForms/SlashActionAuxil.lean:178]: Ok, I know how to simplify everything and avoid the `set_option maxHeartbeats`.

**Review by CBirkbeck — APPROVED** [review]
